US07741426B2
In a three neck flask having an inner volume of 1 liter, 63.08 g of purified water and 1048.74 g of 98% sulfuric acid were placed and stirred to prepare a 92% sulfuric acid solution. The resultant solution was heated to 80° C. and then kept cooled to keep the inner temperature of the flask in the range of 90 to 100° C. and 350.13 g (1.75 mols) of tetrafluoroisopthalonitrile was added piece meal to the cooled solution. After completion of this addition, the reaction solution in the flask was stirred for one hour while the inner temperature of the flask was kept at 90 to 100° C. and then the reaction solution was cooled to 30° C. Then, 1400 g of ice was placed in a beaker having an inner volume of 3 liters and the reaction solution was gently added dropwise to the ice so as to keep the inner temperature of the beaker from exceeding 60° C. After the completion of the dropwise addition, the mixture was cooled to 20° C. and then kept at 20° C. for one hour. A white solid which was precipitated was separated by filtration, washed with 1000 g of water, and then dried to obtain 407.95 g (1.73 mols) of tetrafluoroisophthalamide as a white solid (yield 98.8%).

reactant | sulfuric acid | 1048.74 g | S(O)(O)(=O)=O | H2O4S
reactant | tetrafluoroisopthalonitrile | 1.75 mols, 350.13 g | FC1=C(C(=C(C(=C1C#N)F)C#N)F)F | C8F4N2
reactant | water | 1 liter, 63.08 g | O | H2O
product | tetrafluoroisophthalamide | 1.73 mols, 407.95 g, yield 98.8% | FC1=C(C(=C(C(=C1C(=O)N)F)C(=O)N)F)F | C8H4F4N2O2
